US08314256B2
2-(1-Methyl-1H-indol-3-yl)-2-oxo-N-phenethyl-acetamide was synthesized following scheme II above starting from (1-methyl-1H-indol-3-yl)-oxo-acetic acid and phenethylamine. Yield (61%). HPLC ret. time 3.38 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 8.80 (t, J=5.9 Hz, 1H), 8.73 (s, 1H), 8.25 (m, 1H), 7.60 (m, 1H), 7.36-7.20 (m, 7H), 3.91 (s, 3H), 3.47 (m, 2H), 2.86 (t, J=7.4 Hz, 2H); ESI-MS 307.3 m/z (MH+).

reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid | CN1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C11H9NO3
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
solvent | CH3CN | CC#N | C2H3N
product | 2-(1-Methyl-1H-indol-3-yl)-2-oxo-N-phenethyl-acetamide | CN1C=C(C2=CC=CC=C12)C(C(=O)NCCC1=CC=CC=C1)=O | C19H18N2O2
